US04395406
1-Methyl-5-chloropyrimid-2-one was prepared as above from the potassium salt of 5-chloropyrimid-2-one (prepared as described in Crosby, G. D. and Berthold, V. R. J. Org. Chem. 25 (1960) 1916) in 50% yield, m.p. 210° C. (acetone). (Found: C, 41.61; H, 3.65; Calc. for C5H5ClN2O: C, 41.54; H, 3.48)

reactant | potassium | [K] | K
reactant | 5-chloropyrimid-2-one | ClC=1C=NC(NC1)=O | C4H3ClN2O
reactant | acetone | CC(=O)C | C3H6O
product | 1-Methyl-5-chloropyrimid-2-one | 50% yield | CN1C(N=CC(=C1)Cl)=O | C5H5ClN2O
